US06489487B1
To a suspension of 14.52 g (0.10 mol) of 3-acetylbenzonitrile in 100 ml of methanol was added 17.56 g (0.11 mol) of O-benzylhydroxyamine hydrochloride and further added dropwise 9.49 g (0.12 mol) of pyridine. The mixture was stirred at room temperature for 2.5 hours, and most of the methanol was distilled off. To the residue was added ethyl acetate and resultant mixture was washed successively with about 5% aqueous hydrochloric acid twice, an about 5% aqueous solution of sodium bicarbonate once, and water once, then dried and concentrated to obtain 24.15 g (95.0 mmol) of crude 3-(1-(benzyloxyimino)ethyl)benzonitrile.

reactant | 3-acetylbenzonitrile | 0.10 mol, 14.52 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | O-benzylhydroxyamine hydrochloride | 0.11 mol, 17.56 g | Cl.C(C1=CC=CC=C1)ON
reactant | pyridine | 0.12 mol, 9.49 g | N1=CC=CC=C1 | C5H5N
solvent | methanol | 100 ml | CO | CH4O
product | 3-(1-(benzyloxyimino)ethyl)benzonitrile | 95.0 mmol, 24.15 g | C(C1=CC=CC=C1)ON=C(C)C=1C=C(C#N)C=CC1 | C16H14N2O
